US06727264B1
N-(6-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}HEXYL)-1-PHENYL-5-PROPYL-1H-PYRAZOLE-4-CARBOXAMIDE:
Prepared by Procedure Q1 (THF) and Scheme AT using N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 1-phenyl-5-propyl-1H-pyrazole-4-carbonyl chloride: ESMS m/e: 558.3 (M+H)+.

reactant | N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C21H35N3O
reactant | 1-phenyl-5-propyl-1H-pyrazole-4-carbonyl chloride | C1(=CC=CC=C1)N1N=CC(=C1CCC)C(=O)Cl | C13H13ClN2O
solvent | THF | C1CCOC1 | C4H8O
product | N-(6-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}HEXYL)-1-PHENYL-5-PROPYL-1H-PYRAZOLE-4-CARBOXAMIDE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCCCCNC(=O)C=1C=NN(C1CCC)C1=CC=CC=C1 | C34H47N5O2
